US05650428
The procedure described in Example 125 was repeated, except that (RS)-N-(4-(carbethoxymethyl)phenyl)-2-(4-iodobenzenesulfonylamino)-3-methanesulfonyloxypropanamide (380 mg) was reacted with 3-chlorophenol (160 mg) to obtain (RS)-3-(3-chlorophenoxy)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-iodobenzenesulfonylamino)propanamide (267.88 mg).

reactant | (RS)-N-(4-(carbethoxymethyl)phenyl)-2-(4-iodobenzenesulfonylamino)-3-methanesulfonyloxypropanamide | 380 mg | C(=O)(OCC)CC1=CC=C(C=C1)NC(C(COS(=O)(=O)C)NS(=O)(=O)C1=CC=C(C=C1)I)=O | C20H23IN2O8S2
reactant | 3-chlorophenol | 160 mg | ClC=1C=C(C=CC1)O | C6H5ClO
product | (RS)-3-(3-chlorophenoxy)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-iodobenzenesulfonylamino)propanamide | 267.88 mg | ClC=1C=C(OCC(C(=O)NC2=CC=C(C=C2)CC(=O)OCC)NS(=O)(=O)C2=CC=C(C=C2)I)C=CC1 | C25H24ClIN2O6S
